US06025366
2-[3-(2-Trimethylsilylethoxymethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-ethanol
To a solution of 6-bromo-3-(2-trimethysilylethoxymethyl)-3H-imidazo-[4,5-b]-pyridine (1.3 g, 4 mmol) and bis(triphenylphosphine)-palladium (II) chloride in DMF (12 mL) was added tributylvinyl tin (2.14 g, 6.7 mmol). The reaction vessel was evacuated-purged (N2) several times followed by heating to 95° C. for 15 h. After cooling, the crude reaction mixture was filtered through a pad of celite® and eluted with ethyl ether. The ethereal mixture was washed several times with saturated KF, brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel using a gradient elution of ethyl acetate/hexanes (10, 20, 30 to 40%) which provided 1.06 g of the title compound (97% yield).

reactant | 6-bromo-3-(2-trimethysilylethoxymethyl)-3H-imidazo-[4,5-b]-pyridine | 4 mmol, 1.3 g | BrC=1C=C2C(=NC1)N(C=N2)COCC[Si](C)(C)C | C12H18BrN3OSi
reactant | tributylvinyl tin | 6.7 mmol, 2.14 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)-palladium (II) chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-[3-(2-Trimethylsilylethoxymethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-ethanol | 1.06 g, 97% yield | C[Si](CCOCN1C=NC=2C1=NC=C(C2)CCO)(C)C | C14H23N3O2Si
